US05405861
To thionyl chloride (7.0 ml) was gradually added 2-hydroxymethyl-1-(2,2,3,3-tetrafluoropropyl)imidazole (0.70 g) at 0° C., and the mixture was refluxed for 45 minutes. The reaction mixture was concentrated under reduced pressure, to which was added diethyl ether, then precipitating crystals were collected by filtration. The crystals were dissolved in ethanol, followed by recrystallization from diethyl ether to give 2-chloromethyl-1-(2,2,3,3-tetrafluoropropyl)imidazole hydrochloride (0.90 g) as colorless needles, m.p. 104°-107° C.

reactant | thionyl chloride | 7.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-hydroxymethyl-1-(2,2,3,3-tetrafluoropropyl)imidazole | 0.70 g | OCC=1N(C=CN1)CC(C(F)F)(F)F | C7H8F4N2O
product | 2-chloromethyl-1-(2,2,3,3-tetrafluoropropyl)imidazole hydrochloride | 0.90 g | Cl.ClCC=1N(C=CN1)CC(C(F)F)(F)F | InChI=1S/C7H7ClF4N2.ClH/c8-3-5-13-1-2-14(5)4-7(11,12)6(9)10;/h1-2,6H,3-4H2;1H
